US09216968B2
2-Chloro-N-(3-chloro-2-methylphenyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide
Oxalyl chloride (1.42 mL) was added dropwise to a stirring solution of 2-chloro-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid (1.27 g) in THF (13 mL) under ice-cooling. To the mixture was added DMF (five drops), and it was stirred at room temperature for 2 hours. From the reaction mixture was removed the solvent and excessive oxalyl chloride under reduced pressure. To the residue was added toluene, and it was concentrated under reduced pressure, dried, and then dissolved in THF (10 mL). The solution was dropped slowly to a solution of 3-chloro-2-methylaniline (0.42 mL) and N,N-diisopropylethylamine (2.3 mL) in THF (10 mL) under ice-cooling for 1 hour. The reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain the titled compound (0.58 g) as white powder.

reactant | Oxalyl chloride | 1.42 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid | 1.27 g | ClC1=NC2=C(N1)C=C(C=C2C(=O)O)NC(=O)C2=C(C=CC=C2)C(F)(F)F | C16H9ClF3N3O3
solvent | THF | 13 mL | C1CCOC1 | C4H8O
catalyst | DMF | five drops | CN(C)C=O | C3H7NO
product | 2-Chloro-N-(3-chloro-2-methylphenyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 0.58 g | ClC1=NC2=C(N1)C=C(C=C2C(=O)NC2=C(C(=CC=C2)Cl)C)NC(=O)C2=C(C=CC=C2)C(F)(F)F | C23H15Cl2F3N4O2
